US07326791B2
rac.-N-[3-benzyloxycarbonyl-1-(5-chloro-1H-benzimidazol-2-yl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and 3-benzyloxycarbonyl-1-(5-chloro-1H-benzimidazol-2-yl)propylamine in tetrahydrofuran. Yield: 70%; Rf value: 0.24 (silica gel; ethyl acetate/ethanol=95:5); C31H31ClN4O4 (559.06); mass spectrum: (M+H)+=559/561 (chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-benzyloxycarbonyl-1-(5-chloro-1H-benzimidazol-2-yl)propylamine | C(C1=CC=CC=C1)OC(=O)CCC(C1=NC2=C(N1)C=CC(=C2)Cl)N | C18H18ClN3O2
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
product | rac.-N-[3-benzyloxycarbonyl-1-(5-chloro-1H-benzimidazol-2-yl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 70% | C(C1=CC=CC=C1)OC(=O)CCC(C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C31H31ClN4O4
